US06482818B2
A mixture of 2-azido-acetamide (1.40 g, 14 mmol), 30% aqueous (methanol free) formaldehyde (1.40 g, 14 mmol) and 1.0 N aqueous KOH (0.28 ml, 0.28 mmol) was stirred at 0° C for 4 hrs. To the reaction mixture 1.0 N aqueous HCl was added (pH=7) and the resulting mixture evaporated in vacuo. The residue was suspended in ethyl acetate (50 ml), the solution dried over magnesium sulfate, filtered and the filtrate concentrated to a volume of 5 ml. Chromatography on silica gel (63-200 μm, 18 g) with ethyl acetate afforded 2-azido-N-(hydroxymethyl)-acetamide as a colourless oil in 90% yield. NMR-spectrum in CDCl3: 3.6 (broad signal, 1H), 4.0 (s, 2H), 4.8 (d, 2H, J=6 Hz), 7.3 (broad signal 1H) ppm.

reactant | 2-azido-acetamide | 14 mmol, 1.40 g | N(=[N+]=[N-])CC(=O)N | C2H4N4O
reactant | formaldehyde | 14 mmol, 1.40 g | C=O | CH2O
reactant | KOH | 0.28 mmol, 1.0 N, 0.28 ml | [OH-].[K+]
reactant | HCl | Cl | ClH
product | 2-azido-N-(hydroxymethyl)-acetamide | 90% yield | N(=[N+]=[N-])CC(=O)NCO | C3H6N4O2
